US04954630
Diphenylhydantoin determination in human serum by means of FPIA
Diphenylhydantoin-resorufin solution (10-6M): diphenylhydantoin-resorufin conjugate of Example 1(i) in 0.1M sodium phosphate buffer (pH 7.8).

reactant | Diphenylhydantoin resorufin | 10-6M | C=1C=CC(=CC1)C2(C(=O)N=C(N2)O)C=3C=CC=CC3.C1=CC2=C(C=C1O)OC3=CC(=O)C=CC3=N2
solvent | sodium phosphate | 0.1M, pH 7.8 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | Diphenylhydantoin | C=1C=CC(=CC1)C2(C(=O)N=C(N2)O)C=3C=CC=CC3 | C15H12N2O2
